US07160888B2
Synthesis of 7-{5-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-{5-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one (0.347 g, 0.831 mmol) was hydrogenated using 20% Pd/C in THF for 15 h. The reaction was filtered and concentrated. Recrystallization from hot CH3CN gave the title compound as a white powder (288 mg, 0.686 mmol, 83%). MS: APCI: M+1: 420.3 (Exact Mass: 419.27).

reactant | 7-{5-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.831 mmol, 0.347 g | C1(CC1)C1=CC=CC(=N1)N1CCN(CC1)CCCC=CC1=CC=C2CCC(NC2=N1)=O | C25H31N5O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 7-{5-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.686 mmol, 288 mg, 83% | C1(CC1)C1=CC=CC(=N1)N1CCN(CC1)CCCCCC1=CC=C2CCC(NC2=N1)=O | C25H33N5O
